US08877739B2
Synthesis of N5-(2-chloro-5-sulfophenyl)-L-glutamine (Compound No. 37)
To sodium 4-chloro-3-nitrobenzenesulfonate (1 mmol) were added 2 ml of methanol and 3 ml of water. A catalytic amount of 2% Pt-S/C was added to the mixture, followed by stirring at room temperature overnight in a hydrogen atmosphere. The catalyst was removed by filtration. After thoroughly drying, 303 mg (1 mmol) of Boc-Glu-OtBu hydrochloride, 163 mg (1.2 mmol) of HOAt, 456 mg (1.2 mmol) of HATU, 2 ml of DMF and 0.35 ml of DIEA were added and stirred at room temperature overnight. The reaction solution was diluted in water-acetonitrile and purified according to the purification step A to give the protected form of the title compound. The resulting protected product was dissolved in 3 ml of trifluoroacetic acid and stirred at room temperature for 2 hours. The solvent was then removed by distillation. The mixture was purified according to the purification step A to give the title compound.

reactant | sodium 4-chloro-3-nitrobenzenesulfonate | 1 mmol | ClC1=C(C=C(C=C1)S(=O)(=O)[O-])[N+](=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | Boc-Glu-OtBu hydrochloride | 1 mmol, 303 mg | N([C@@H](CCC(O)=O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C.Cl
reactant | HOAt | 1.2 mmol, 163 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | HATU | 1.2 mmol, 456 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.35 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | water acetonitrile | O.C(C)#N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | water | 3 ml | O | H2O
solvent | methanol | 2 ml | CO | CH4O
product | N5-(2-chloro-5-sulfophenyl)-L-glutamine | ClC1=C(C=C(C=C1)S(=O)(=O)O)NC(CC[C@H](N)C(=O)O)=O | C11H13ClN2O6S
